US04044148
b. 2-Chloro-3,5-dinitrobiphenyl
A mixture of 30.00 g. of 3,5-dinitro-2-biphenylol, 15 ml. of dimethylformamide, and 113 ml. of phosphorous oxychloride is heated on a steam bath for 2.25 hours. The mixture is then cooled to room temperature and poured slowly into approximately 600 g. of crushed ice. The precipitate that forms is isolated by filtration and washed with water. The solid is dissolved in chloroform and the chloroform solution is washed several times with 10% Na2CO3 and once with water. The chloroform solution is dried over MgSO4 and concentrated. The product is recrystallized from benzenehexane to give 19.07 g. of material (melting at 119°-20° ).

reactant | 3,5-dinitro-2-biphenylol | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])C1=CC=CC=C1)O | C12H8N2O5
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Chloro-3,5-dinitrobiphenyl | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C1=CC=CC=C1 | C12H7ClN2O4
